US08202873B2
Use the method used to make 2-chloro-3-(4-chlorophenyl)-pyrazine, using 4-methoxyphenylboronic acid to obtain 2-chloro-3-(4-methoxyphenyl)-pyrazine (54% yield).

reactant | 2-chloro-3-(4-chlorophenyl)-pyrazine | ClC1=NC=CN=C1C1=CC=C(C=C1)Cl | C10H6Cl2N2
reactant | 4-methoxyphenylboronic acid | COC1=CC=C(C=C1)B(O)O | C7H9BO3
product | 2-chloro-3-(4-methoxyphenyl)-pyrazine | 54% yield | ClC1=NC=CN=C1C1=CC=C(C=C1)OC | C11H9ClN2O
